US06274119B1
Anhydrous piperazine (7 g, 81.3 mmol; dried in a vacuum desiccator over KOH-drierite mixture for 3 days) was dissolved in a mixture of dry, freshly distilled toluene and hexamethyl phosphoric amide (HMPA), 25 mL each. To the solution was added 556 mg (80.1 mmol) of lithium rod, cut in small pieces under argon atmosphere, and the mixture was stirred under argon for 24 hours, during which time all lithium has dissolved. Vacuum-dried 1-(6-methoxy-2-naphthyl)-1-ethanone (prepared as described in Arsenijevic et al., Org. Synth. Coll. 1988 6:34-36, the disclosure of which is incorporated herein by reference) (3.5 g, 17.5 mmol) was added and stirring was continued for additional 65 hours. After quenching with 300 mL of water, extraction with dichloromethane (3×300 ml,), drying with anhydrous magnesium sulfate, and evaporation, a mixture of white and yellow solids was obtained. Extraction with 300 mL of hot methanol gave raw product, 1-(6-piperazino-2-naphthyl)-1-ethanone, which was purified by column chromatography (70-230 mesh silica, 25×120 mm, 5% methanol in dichloromethane). The yield was 1.54 g (35%). After recrystallization from ethyl acetate, the sample melted at 170.5-172° C.

reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | lithium | 80.1 mmol, 556 mg | [Li] | Li
reactant | 1-(6-methoxy-2-naphthyl)-1-ethanone | COC=1C=C2C=CC(=CC2=CC1)C(C)=O | C13H12O2
product | 1-(6-piperazino-2-naphthyl)-1-ethanone | N1(CCNCC1)C=1C=C2C=CC(=CC2=CC1)C(C)=O | C16H18N2O
